US04997943
0.11 g (0.00032 mole) of 1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid boron difluoride chelate (IV) (prepared as described in Preparation 7) was dissolved in 0.5 ml of dimethyl sulfoxide, and 0.11 g (0.0012 mole) of anhydrous piperazine was added to the resulting solution. The mixture was then allowed to stand at room temperature overnight, after which it was poured into 50 ml of diethyl ether. The yellow crystals which precipitated were collected by filtration and dissolved in 30 ml of 80% aqueous ethanol and 5 ml of triethylamine, and the resulting solution was heated under reflux for 4 hours. The reaction mixture was then filtered while hot to remove insoluble material, and the filtrate was concentrated by evaporation under reduced pressure to give a crystalline substance, which was washed with ethanol to afford 0.07 g of 1-cyclopropyl-6-fluoro-8-methoxy-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid as colorless powdery crystals, melting at 177°-178° C.

reactant | 1-cyclopropyl-6,7-difluoro-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylic acid boron difluoride | 0.00032 mole, 0.11 g | [B](F)F.C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)F)F)=O)C(=O)O
reactant | piperazine | 0.0012 mole, 0.11 g | N1CCNCC1 | C4H10N2
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
solvent | dimethyl sulfoxide | 0.5 ml | CS(=O)C | C2H6OS
product | 1-cyclopropyl-6-fluoro-8-methoxy-7-(1-piperazinyl)-1,4-dihydro-4-oxoquinoline-3-carboxylic acid | 0.07 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CCNCC1)F)=O)C(=O)O | C18H20FN3O4
